US06825354B2
The ethyl(3-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate (4.2 g, 13 mmol) was stirred with THF (100 ml) in a dried two-necked flask under inert conditions. The 2-butyn-1-ol (0.97 ml, 13 mmol) and 1,1′(azodicarbonyl)dipiperidine (3.94 g, 15.6 mmol). Tributylphosphine (3.90 ml, 15.6 mmol) was added dropwise at 0° C. The reaction mixture was allowed to stir at room temperature under nitrogen for 2 hours before it was concentrated. The residue was triturated with ether and the filtrate was concentrated, Ethyl{[4-(2-butynyloxy)phenyl]sulfanyl}(3-chlorophenyl)acetate was isolated as a yellow oil (4.08 g) after silica-gel column chromatography, using methylene chloride as the mobile phase. Yield 84%; MS(EI): 375 (M+H)+

reactant | ethyl(3-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate | 13 mmol, 4.2 g | C(C)OC(C(SC1=CC=C(C=C1)O)C1=CC(=CC=C1)Cl)=O | C16H15ClO3S
reactant | 2-butyn-1-ol | 13 mmol, 0.97 ml | C(C#CC)O | C4H6O
reactant | 1,1′(azodicarbonyl)dipiperidine | 15.6 mmol, 3.94 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | Tributylphosphine | 15.6 mmol, 3.90 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl{[4-(2-butynyloxy)phenyl]sulfanyl}(3-chlorophenyl)acetate | Yield 84% | C(C)OC(C(C1=CC(=CC=C1)Cl)SC1=CC=C(C=C1)OCC#CC)=O | C20H19ClO3S
